US04144248
1-Methylsulfinyl-1-methylthio-2-(m-phenoxyphenyl)ethylene (4.56 g) was dissolved in 40 ml of methylene chloride, and 2 ml of pyridine was added. With stirring under ice cooling, 10 ml of a methylene chloride solution of 2.15 g of thionyl chloride was added dropwise over the course of 5 minutes. The mixture was further stirred for 1 hour under ice cooling, and methylene chloride was added in an amount sufficient to adjust the total amount of the mixture to 80 ml. The mixture was then washed three times with 20 ml of water. The product was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was chromatographed on a Florisil column using hexane/benzene as an eluant to afford 3.403 g of 1,1-bis(methylthio)-2-chloro-2-(m-phenoxyphenyl)ethylene as an oil in a yield of 70%. Samples for analysis were obtained by short-path distillation of this product [160°-180° C. (bath temperature)/0.01 mmHg].

reactant | 1-Methylsulfinyl-1-methylthio-2-(m-phenoxyphenyl)ethylene | 4.56 g | CS(=O)C(=CC1=CC(=CC=C1)OC1=CC=CC=C1)SC | C16H16O2S2
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 2.15 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1,1-bis(methylthio)-2-chloro-2-(m-phenoxyphenyl)ethylene | 3.403 g, yield of 70% | CSC(=C(C1=CC(=CC=C1)OC1=CC=CC=C1)Cl)SC | C16H15ClOS2
